Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
syncope  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 This is an ___ year old male (nephrologist) with PMHx atrial 
fibrillation (on Coumadin), h/o transient global amnesia, and 
HTN, who is presenting with syncope. He reports that around 6 pm 
on ___, he felt lightheaded and dizzy and the next thing he 
remembers he was being lifted onto a board by EMS. Per the 
patient's son (a cardiologist), the patient was sitting at the 
table and suddenly became unresponsive while sitting in his 
chair and then his eyes rolled back into his head. He lost 
bladder continence but did not have any seizure like activity. 
He was lowered to the ground and was noted to have a "thready 
pulse" so compressions were started by family members. As soon 
as EMS arrived, he regained consciousness. He reports that he 
did not experience any chest pain or palpitations. He did 
syncopize once in the past in the setting of am emotional event. 
He reports that he did not drink or eat much yesterday prior to 
this event and then drank a glass of wine, but he also reports 
that at baseline he doesn't eat or drink much.  

 In the ED, initial vitals were: 96.8 85 166/98 22 86% Nasal 
Cannula  
 - Labs were significant for: Na 140, K 4.0, Cl 100, HCO3 27, 
BUN 19. Cr 1.1, WBC 6.8, Hgb 16.2, Hct 48.2, Plt 178. INR 2.2, D 
dimer < 150  
 - Imaging revealed: CXR - Elevated left hemidiaphragm, 
otherwise unremarkable.  
 - The patient was given: nothing  
 Vitals prior to transfer were: 97.4 77 144/98 16 100% RA  
 Upon arrival to the floor, patient reports that he feels well.  


 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
 Atrial Fibrillation (on Coumadin)  
 h/o transient global amnesia  
 HTN  
 
Social History:
___
Family History:
Denies family history of premature CAD, stroke. 
 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
Vitals: 97.4 139/95 88 18 100% RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: irregularly irregular rate, normal S1 + S2, no murmurs, 
rubs, gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  

=======================
DISCHARGE PHYSICAL EXAM
=======================
Vitals: T 98.3F BP 143/95 mmHg P 72 RR 18 O2 99% RA
General: Elderly man, appearing his stated age, in NAD.
HEENT: PERRL; EOMs intact. MMM. OP clear.
Neck: Supple; no LAD. No JVD.
CV: Irregularly irregular. No murmurs, rubs or gallops. Normal 
S1/S2.
Pulm: CTA b/l; no wheezes, rhonchi, or rales.
Abd: Soft, non-tender, non-distended. NABS.
GU: No Foley catheter in place.
Ext: Warm, well-perfused, 2+ pulses. No clubbing, cyanosis or 
edema.
Neuro: A&Ox3. CNs II-XII grossly intact. Full strength in upper 
and lower extremities. Distal sensation intact to light touch. 
Gait deferred.

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 07:35PM BLOOD WBC-6.8 RBC-5.19 Hgb-16.2 Hct-48.2 MCV-93 
MCH-31.2 MCHC-33.6 RDW-13.2 RDWSD-44.5 Plt ___
___ 07:35PM BLOOD Neuts-56.0 ___ Monos-12.7 Eos-4.4 
Baso-0.4 Im ___ AbsNeut-3.82 AbsLymp-1.79 AbsMono-0.87* 
AbsEos-0.30 AbsBaso-0.03
___ 07:35PM BLOOD Plt ___
___ 07:35PM BLOOD ___ PTT-36.2 ___
___ 07:35PM BLOOD Glucose-108* UreaN-19 Creat-1.1 Na-140 
K-4.0 Cl-100 HCO3-27 AnGap-17
___ 07:35PM BLOOD CK(CPK)-62
___ 09:19AM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:35PM BLOOD cTropnT-<0.01
___ 07:35PM BLOOD Calcium-9.9 Phos-3.5 Mg-1.8
___ 07:35PM BLOOD D-Dimer-<150

==============
DISCHARGE LABS
==============
___ 07:30AM BLOOD WBC-5.8 RBC-5.14 Hgb-15.9 Hct-47.7 MCV-93 
MCH-30.9 MCHC-33.3 RDW-13.2 RDWSD-44.5 Plt ___
___ 07:30AM BLOOD Glucose-102* UreaN-15 Creat-1.1 Na-139 
K-4.2 Cl-100 HCO3-27 AnGap-16
___ 07:30AM BLOOD Calcium-9.7 Phos-2.8 Mg-1.7

===============
IMAGING/STUDIES
===============
CHEST (PORTABLE AP) (___):
FINDINGS:  
  
AP portable upright view of the chest.   Mildly elevated left 
hemidiaphragm is noted.  Lungs are clear.  No large effusion or 
pneumothorax.  Heart size appears grossly within normal limits 0 
left heart border is partially obscured.  Mediastinal contours 
unremarkable.  Bony structures are intact. 
  
IMPRESSION:  
Elevated left hemidiaphragm, otherwise unremarkable. 

TTE (___):
Findings   
LEFT ATRIUM: Normal LA size. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal IVC diameter (<=2.1cm) 
with >50% decrease with sniff (estimated RA pressure ___ mmHg). 


LEFT VENTRICLE: Normal LV wall thickness. Normal LV cavity size. 
Low normal LVEF. 

RIGHT VENTRICLE: Normal RV free wall thickness. Dilated RV 
cavity. RV function depressed. 

AORTA: Normal aortic diameter at the sinus level. Focal 
calcifications in aortic root. 

AORTIC VALVE: Moderately thickened aortic valve leaflets. Mild 
AS (area 1.2-1.9cm2). Mild (1+) AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild 
mitral annular calcification. Mild thickening of mitral valve 
chordae. Calcified tips of papillary muscles. Trivial MR. 

___ VALVE: Normal tricuspid valve leaflets. Normal 
tricuspid valve supporting structures. No TS. Mild [1+] TR. 
Indeterminate PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. Normal main PA. No Doppler evidence for 
PDA 

PERICARDIUM: No pericardial effusion.   

 
Conclusions   
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Overall left 
ventricular systolic function is low normal (LVEF = 50%) 
secondary to hypokinesis of the inferior septum, inferior free 
wall, and posterior wall, with focal inferobasal akinesis. The 
right ventricular free wall thickness is normal. The right 
ventricular cavity is dilated with depressed free wall 
contractility. The aortic valve leaflets are moderately 
thickened. There is mild aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Trivial mitral regurgitation is seen. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion.   

============
MICROBIOLOGY
============
- none

 
Brief Hospital Course:
Dr. ___ is an ___ y/o man w/ a PMH of atrial 
fibrillation on Coumadin, transient global amnesia, and 
hypertension, who presented with syncope.

# Syncope. Per his family, he was unresponsive for approximately 
5 minutes, with a thready pulse, at which time compressions were 
started, and he regained consciousness. EKG demonstrated atrial 
fibrillation with no ischemic changes. Seizure was thought to be 
unlikely as there were no convulsions, although patient had 
urinary incontinence. He was found to be mildly orthostatic, for 
which he was given 500 cc fluid bolus. Home chlorthalidone was 
held. TTE was performed, which showed low normal left 
ventricular systolic function (LVEF = 50%) secondary to 
hypokinesis of the inferior septum, inferior free wall, and 
posterior wall, with focal inferobasal akinesis. We discussed 
initiation of beta-blocker to reduce risk of sudden cardiac 
death in setting of recent history and TTE showing coronary 
distribution of hypokinesis. Because he has had heart rates in 
the ___, and 2s pause on telemetry, the patient declined 
beta blockade until discussing with his outpatient Cardiologist. 
He had no evidence of heart failure on examination. Because 
there were no signs of acute infarction, he was discharged home 
with plan for immediate cardiology follow-up for rhythm 
monitoring. 
   
# Hypertension. Recently started on chlorthalidone for new 
hypertension diagnosis. Had been on this medication for two 
weeks without prior symptoms of orthostasis. Held give in mild 
orthostasis. Given orthostatsis, chlorthalidone held at time of 
discharge.  

# Atrial fibrillation. CHA2DS2-Vasc score of 3 for age and 
hypertension. He was continued on his home warfarin dosing of 5 
mg q.o.d. and 6 mg q.o.d. INR remained in the therapeutic range 
(___). 

====================
TRANSIITIONAL ISSUES
====================
# Syncope. As above, this was felt most likely to be cardiogenic 
in origin, and he underwent TTE, which demonstrated low-normal 
LV systolic function (LVEF = 50%), with focal inferobasal 
akinesis. As above, initiation of beta blockade was deferred. He 
was discharged with plan for immediate outpatient cardiology 
follow-up in ___ to arrange for rhythm monitoring. 
# Medication changes. Chlorthalidone was held in the setting of 
mild orthostasis. Please consider restarting at your discretion. 

# Anticoagulation. Was continued on his home warfarin dosing of 
5 mg q.o.d. and 6 mg q.o.d.
# Code status: FULL
# Contact: ___ (wife) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 25 mg PO DAILY 
2. Warfarin 5 mg PO EVERY OTHER DAY 
3. Warfarin 6 mg PO EVERY OTHER DAY 

 
Discharge Medications:
1. Warfarin 5 mg PO EVERY OTHER DAY 
2. Warfarin 6 mg PO EVERY OTHER DAY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSES
=================
- Syncope (cardiogenic)

===================
SECONDARY DIAGNOSES
===================
- Atrial fibrillation
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a pleasure caring for you at ___ 
___. You were admitted for work-up of syncope and 
unresponsiveness, which we thought may have been caused by a 
ventricular arrhythmia. You underwent an echocardiogram, which 
showed a low normal ejection fraction of 50% and focal wall 
motion abnormality. We did not detect any arrhythmias on our 
monitoring. On telemetry, you had atrial fibrillation ranging in 
___, with tachycardia to 100s-110s with exertion. Because 
you had no evidence of acute infarction, we recommended that you 
return to ___ to see your cardiologist as soon as possible 
for rhythm monitoring. We discussed starting a beta blocker, but 
felt it was reasonable to hold on until you see your cardiology. 
Please continue to hold your chlorthalidone.  

Please continue to take all medications as prescribed. 

We wish you the very best!

Warmly,
Your ___ Team
 
Followup Instructions:
___